US05716954
6-(n-Butyl)-pyrrolo[3,4-b]pyridine-5,7-dione(40.4 g, 198 mmoles) was dissolved in toluene (1 L) and cooled to -65° C. Phenylmagnesium chloride (100 mL, 2M in THF, 200 moles) was added over 15 minutes. The cooling bath was then removed and the mixture allowed to warm to -10° C. The reaction was quenched by addition of 25 mL of saturated ammonium chloride solution. The room temperature solution was diluted with 500 mL of ethyl acetate and 500 mL of water. The layers were separated. Removal of most of the organic solvent was accomplished by atmospheric distillation. When the remaining volume reaches 150 mL the mixture was cooled to below 80 C and 1 L of hexanes was added. The resulting crystalline mass was filtered and dried to give 50.6 g of 7-hydroxy-7-phenyl-6-(n-butyl)-6,7-dihydropyrrolo[3,4-b]pyridin-5-one.

reactant | 6-(n-Butyl)-pyrrolo[3,4-b]pyridine-5,7-dione | 198 mmoles, 40.4 g | C(CCC)N1C(C2=NC=CC=C2C1=O)=O | C11H12N2O2
reactant | Phenylmagnesium chloride | 200 moles, 2M, 100 mL | C1(=CC=CC=C1)[Mg]Cl
solvent | toluene | 1 L | C1(=CC=CC=C1)C | C7H8
product | 7-hydroxy-7-phenyl-6-(n-butyl)-6,7-dihydropyrrolo[3,4-b]pyridin-5-one | 50.6 g | OC1(N(C(C=2C1=NC=CC2)=O)CCCC)C2=CC=CC=C2 | C17H18N2O2
